US04681883
2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]benzthiazole
3-[3-(Piperidinomethyl)phenoxy]propylamine (7.0 g) and 2-chlorobenzthiazole (5.26 g) were dissolved in dichloromethane to ensure good mixing. The solvent was then evaporated and the residue fused at 130° C. for 16 hours. The cooled reaction mixture was subjected to chromatography on silica (chloroform:methanol 10:1) to give the title compound as an oil (8.5 g). This was treated with maleic acid in isopropanol to give 2-[3-[3- [3-(piperidinomethyl)phenoxy]propylamino]benzthiazole dimaleate, m.p. 113° C. (decomp) (recrystallised from ethylacetate and isopropanol-ethyl acetate).

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 7.0 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 2-chlorobenzthiazole | 5.26 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]benzthiazole | 8.5 g | N1(CCCCC1)CC=1C=C(OCCCNC=2SC3=C(N2)C=CC=C3)C=CC1 | C22H27N3OS
